US07223791B2
A mixture of 3-nitro-4-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid (0.600 g), 5% palladium on carbon (0.600 g) and tetrahydrofuran (15 ml) was stirred under a hydrogen atmosphere at room temperature and normal pressure for 30 min. Palladium on carbon was filtered off, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=20:1, volume ratio) to give 3-amino-4-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid (0.33 g, yield 59%). Recrystallization from hexane-tetrahydrofuran gave yellow prism crystals. melting point: >300° C.

reactant | 3-nitro-4-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid | 0.600 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1C=1OC(=NN1)C1=CC=C(C=C1)C(F)(F)F | C16H8F3N3O5
catalyst | palladium on carbon | 0.600 g | [Pd] | Pd
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-amino-4-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid | 0.33 g, yield 59% | NC=1C=C(C(=O)O)C=CC1C=1OC(=NN1)C1=CC=C(C=C1)C(F)(F)F | C16H10F3N3O3
